US07691850B2
b) phenylmethyl[(3R)-3-pyrrolidinylmethyl]carbamate
To a solution of 1,1-dimethylethyl(3S)-3-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-pyrrolidinecarboxylate in DCM (100 mL) at RT was added TFA (50 mL). After 2 h, the reaction solution was concentrated under vacuum and purified on silica (CHCl3/MeOH, 9:1 containing 5% NH4OH) to give the title compound (2.93 g, 94%) as a light yellow oil: LC-MS (ES) m/e 235 (M+H)+.

reactant | 1,1-dimethylethyl(3S)-3-[({[(phenylmethyl)oxy]carbonyl}amino)methyl]-1-pyrrolidinecarboxylate | C1(=CC=CC=C1)COC(=O)NC[C@H]1CN(CC1)C(=O)OC(C)(C)C | C18H26N2O4
reactant | TFA | 50 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | phenylmethyl[(3R)-3-pyrrolidinylmethyl]carbamate | 2.93 g, 94% | C1(=CC=CC=C1)COC(NC[C@H]1CNCC1)=O | C13H18N2O2
